* Unsupported native compact model should fail loudly, never fallback silently.
.MODEL nch psp103va type=1
VDD vdd 0 DC 1.8
VIN gate 0 DC 0.8
RD vdd drain 10k
N1 drain gate 0 0 nch w=1u l=0.13u
.OP
.END
